US05061706
1.0 g (3.8 mmol) 4,5-dimethyl-2-nitroaniline in 30 ml tetrahydrofuran:dimethylformamide: 25% aqueous ammonia (30:10:0.7) was hydrogenated at atm. pressure by using 60 mg 5% Pt-C as a catalyst. The precipitate was filtered off and washed with tetrahydrofuran. The filter cake was washed several times with 1N aqueous potassium hydroxide, and the filtrate was acidified with concentrated hydrochloric acid. The precipitate was filtered off and washed with water, ethanol and ether to give 0.13 g (17%) of 6,7-dimethyl-1-hydroxyquinoxaline-2,3(1H,4H)-dione. M.p. decomp. 1H-NMR (DMSO-d6): 11.9 (1H, broad s), 7.3 (1H, s), 7.0 (1H, s), 2.3 (6H, s). MS (m/e): 206 (M+, 70%), 161 (100%).

reactant | 4,5-dimethyl-2-nitroaniline | 3.8 mmol, 1.0 g | CC1=CC(=C(N)C=C1C)[N+](=O)[O-] | C8H10N2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | ammonia | N | H3N
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | Pt-C | 60 mg | [Pt] | Pt
product | 6,7-dimethyl-1-hydroxyquinoxaline-2,3(1H,4H)-dione | 0.13 g, 17% | CC=1C=C2NC(C(N(C2=CC1C)O)=O)=O | C10H10N2O3
